US05942538
Preparation of N'-cyclopropylmethyloxy-N-(4-methoxyphenyl)acetyl-2-fluoro-6-trifluoromethylbenzamidine (Compound No. 56)
In 200 ml of benzene was dissolved 20.0 g of N'-cyclopropylmethyloxy-2-fluoro-6-trifluoromethylbenzamidine, and to the solution was added 16. 0 g of 4-methoxyphenylacetylchloride. The solution was heated under refluxing for 10 hours. After cooling, ethyl acetate was added to the solution, followed by washing with water and drying over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure and the residue was subjected to silica gel column chromatography to obtain 23.6 g of the objective compound.m.p. 75-76° C.

reactant | N'-cyclopropylmethyloxy-2-fluoro-6-trifluoromethylbenzamidine | 20.0 g | C1(CC1)CON=C(C1=C(C=CC=C1C(F)(F)F)F)N | C12H12F4N2O
reactant | 4-methoxyphenylacetylchloride | 0 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N'-cyclopropylmethyloxy-N-(4-methoxyphenyl)acetyl-2-fluoro-6-trifluoromethylbenzamidine | 23.6 g | C1(CC1)CON=C(C1=C(C=CC=C1C(F)(F)F)F)NC(CC1=CC=C(C=C1)OC)=O | C21H20F4N2O3
